US05070161
N-(p-methoxybenzyl)-N,N-dimethylanilinium hexafluoroantimonate
4,698 g (0.03 mol) of p-methoxybenzyl chloride and 3,638 g (0.03 mol) of N,N-dimethylaniline were reacted in 40 ml of methanol at 40° C. for 3 days. After the reaction, the solvent was evaporated in vacuo and ether/water was added to the residue to extract unreacted reactans in the etherial layer. To the aquous layer containing the ammonium chloride was added 7.77 g (0.03 mol) of sodium hexafluoroantimonate. The resulting crystals were suction filtered, washed and dried to give the titled compound.

reactant | p-methoxybenzyl chloride | 0.03 mol, 4,698 g | COC1=CC=C(CCl)C=C1 | C8H9ClO
reactant | N,N-dimethylaniline | 0.03 mol, 3,638 g | CN(C1=CC=CC=C1)C | C8H11N
reactant | sodium hexafluoroantimonate | 0.03 mol, 7.77 g | F[Sb-](F)(F)(F)(F)F.[Na+]
solvent | methanol | 40 ml | CO | CH4O
product | N-(p-methoxybenzyl)-N,N-dimethylanilinium hexafluoroantimonate | F[Sb-](F)(F)(F)(F)F.COC1=CC=C(C[N+](C2=CC=CC=C2)(C)C)C=C1 | InChI=1S/C16H20NO.6FH.Sb/c1-17(2,15-7-5-4-6-8-15)13-14-9-11-16(18-3)12-10-14;;;;;;;/h4-12H,13H2,1-3H3;6*1H;/q+1;;;;;;;+5/p-6
